US07687502B2
1-[2-({4-[(1-Methyl-1H-pyrazol-3-yl)amino]-quinazolin-6-yl}oxy)pyridin-3-yl]ethanone
The compound of Example 126 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 3-acetyl-2-chloropyridine, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 3-acetyl-2-chloropyridine | C(C)(=O)C=1C(=NC=CC1)Cl | C7H6ClNO
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | 1-[2-({4-[(1-Methyl-1H-pyrazol-3-yl)amino]-quinazolin-6-yl}oxy)pyridin-3-yl]ethanone | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)OC1=NC=CC=C1C(C)=O | C19H16N6O2
